US04873228
Dimethyl 2-hydroxypyrimidine-4,6-dicarboxylate (1.0 g. 4.7 mmol) was dissolved in warm acetic acid (17M. 70 ml) and heated to 70°. Zinc dust (1.5 g. 22.9 mmol) was added to this stirred solution portionwise over a period of 1 h. Each addition of a zinc portion was accompanied by a purple colour change of the reaction mixture. This colour slowly dissipated, then further zinc was added in similar fashion until completion. The resulting mixture was stirred at 70° for 30 min. The reaction mixture was filtered and washed with acetic acid (17M, 2×10 ml). The filtrate was evaporated to dryness under reduced pressure to give a colourless oil. The residual oil was dissolved in chloroform (100 ml), filtered and the solvent removed to give colourless crystals. The crude product was recrystallized from methanol to give dimethyl 2-oxo-1,2,3,6-tetrahydropyrimidine-4,6-dicarboxylate as colourless prisms, (283 mg. 28%) m.p. 177°-179°

reactant | Dimethyl 2-hydroxypyrimidine-4,6-dicarboxylate | 4.7 mmol, 1.0 g | OC1=NC(=CC(=N1)C(=O)OC)C(=O)OC | C8H8N2O5
solvent | acetic acid | 17M, 70 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Zinc | 22.9 mmol, 1.5 g | [Zn] | Zn
product | dimethyl 2-oxo-1,2,3,6-tetrahydropyrimidine-4,6-dicarboxylate | O=C1NC(C=C(N1)C(=O)OC)C(=O)OC | C8H10N2O5
